US08420632B2
In a Schlenk tube, a solution of 5 g (20 mmol) of methyl (S)-2-amino-3-tert-butoxycarbonylaminopropanoate hydrochloride and 4.3 g (20 mmol) of N,N-bis(2-chloroethyl)methanesulfonamide in 65 ml of N,N-diisopropylethylamine is heated at 127° C. with vigorous stirring for 18 h. After the addition of water, the product is extracted with ethyl acetate. The organic phases are combined, washed with water, dried over magnesium sulfate, filtered and concentrated under vacuum. The crude product obtained is purified by chromatography on silica gel, elution being carried out with a 50/50 heptane/ethyl acetate mixture. 3.3 g (46%) of methyl (S)-3-tert-butoxycarbonylamino-2-(4-methanesulfonylpiperazin-1-yl)propanoate are obtained in the form of a white solid.

reactant | methyl (S)-2-amino-3-tert-butoxycarbonylaminopropanoate hydrochloride | 20 mmol, 5 g | Cl.N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C
reactant | N,N-bis(2-chloroethyl)methanesulfonamide | 20 mmol, 4.3 g | ClCCN(S(=O)(=O)C)CCCl | C5H11Cl2NO2S
reactant | water | O | H2O
solvent | N,N-diisopropylethylamine | 65 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | methyl (S)-3-tert-butoxycarbonylamino-2-(4-methanesulfonylpiperazin-1-yl)propanoate | 3.3 g, 46% | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C14H27N3O6S
